US06046213
A mixture of sodium borohydride (0.090 g, 2.38 mmol) and ethanol (5 mL) was stirred 10 min and then 1-(3,5-dimethyl-4-triisopropylsilyloxyphenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-one (1.30 g, 2.25 mmol in 25 mL of ethanol) was added. The reaction was stirred at ambient temperature overnight. The white solid which precipitated was collected by filtration and dried to yield 0.408 g (31%) of (1R*,2R*)-1-(3,5-dimethyl-4-triisopropylsilyloxyphenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-ol which was suitable for use without further purification and had: mp 177-177.5° C. Analysis calculated for C32H48F3NO3Si.0.25 H2O: C, 65.78; H, 8.37; N, 2.40. Found: C, 65.65; H, 8.51; N, 2.57.

reactant | sodium borohydride | 2.38 mmol, 0.090 g | [BH4-].[Na+]
reactant | 1-(3,5-dimethyl-4-triisopropylsilyloxyphenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-one | 2.25 mmol, 25 mL, 1.30 g | CC=1C=C(C=C(C1O[Si](C(C)C)(C(C)C)C(C)C)C)C(C(C)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F)=O | C32H46F3NO3Si
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (1R*,2R*)-1-(3,5-dimethyl-4-triisopropylsilyloxyphenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-ol | 0.408 g, 31% | CC=1C=C(C=C(C1O[Si](C(C)C)(C(C)C)C(C)C)C)[C@H]([C@@H](C)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F)O | C32H48F3NO3Si
